US04042707
A mixture of α-phenyl-maleic anhydride (20 g, 0.115 moles), butadiene (40 g, 0.74 moles) and 200 ml of toluene was heated at 100° C. in a sealed bomb for 15 hrs. The toluene solution was decanted from an insoluble, polymeric material and evaporated in vacuo to yield crude 1-phenyl-4-cyclohexene-1,2-dicarboxylic acid anhydride, bp 155° (0.3 mm).

reactant | α-phenyl-maleic anhydride | 0.115 moles, 20 g | C1(=CC=CC=C1)/C=1/C(=O)OC(\C1)=O | C10H6O3
reactant | butadiene | 0.74 moles, 40 g | C=CC=C | C4H6
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-4-cyclohexene-1,2-dicarboxylic acid anhydride | C1(=CC=CC=C1)C12C(CC=CC1)C(=O)OC2=O | C14H12O3
